### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Sphere/OrthRadius): lemmas for setting up and using polars

### PR DESCRIPTION
**Pull request by jsm28**
Add further lemmas about `orthRadius` that are of use in setting up and using poles and polars.  In particular,
`ncard_inter_orthRadius_eq_two_of_dist_lt_radius` is the key part of showing that, in two dimensions, there are exactly two tangents to a circle from a point outside that circle (where the points of tangency lie on the polar of the point from which the two tangents are drawn).

---

Feel free to golf the proof of `ncard_inter_orthRadius_eq_two_of_dist_lt_radius`, it could probably be rather shorter.

---

- [ ] depends on: #32296

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean [hunk 1]
```diff
@@ -96,6 +111,9 @@ lemma orthRadius_le_orthRadius_iff {s : Sphere P} {p q : P} :
   have hqp := orthRadius_le_orthRadius_iff.1 h.symm.le
   grind
 
+lemma injective_orthRadius (s : Sphere P) : Injective s.orthRadius :=
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean]:
```suggestion
lemma orthRadius_injective (s : Sphere P) : Injective s.orthRadius :=
```

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean [hunk 2]
```diff
@@ -122,6 +140,75 @@ lemma orthRadius_parallel_orthRadius_iff {s : Sphere P} {p q : P} :
     ← Set.not_nonempty_iff_eq_empty, mk'_nonempty, not_true_eq_false, and_true]
   exact ⟨fun ⟨r, h⟩ ↦ ⟨r, r.ne_zero, h.symm⟩, fun ⟨r, hr, h⟩ ↦ ⟨.mk0 r hr, h.symm⟩⟩
 
+attribute [local instance] FiniteDimensional.of_fact_finrank_eq_two
+
+lemma ncard_inter_orthRadius_eq_two_of_dist_lt_radius [hf2 : Fact (Module.finrank ℝ V = 2)]
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:364]: Could you add a docstring here? Perhaps "In 2D, the line defined by `s.orthRadius p` intersects `s` at exactly two points so long as `p` lies strictly within `s` and not at its center".

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean [hunk 3]
```diff
@@ -122,6 +140,75 @@ lemma orthRadius_parallel_orthRadius_iff {s : Sphere P} {p q : P} :
...
+    {s : Sphere P} {p : P} (hp : dist p s.center < s.radius) (hpc : p ≠ s.center) :
+    (s ∩ s.orthRadius p : Set P).ncard = 2 := by
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:366]: Can we do better and explicitly write down the elements of `(s ∩ s.orthRadius p : Set P)` first in a helper lemma?

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:366]: The difficulty there is that there's no canonical ordering of the two intersection points; you first need to pick an arbitrary choice of orientation, or of nonzero vector in the `orthRadius`, or similar, in order to prefer one point over its reflection. Given that, saying that there are two such points seems quite natural as the form of lemma to use.

Comment (eric-wieser) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:366]: I was thinking something like:
```
lemma inter_orthradius_eq_of_dist_le_radius
    {s : Sphere P} {p : P} [hf2 : Fact (Module.finrank ℝ V = 2)] :
    (s ∩ s.orthRadius p : Set P) =
      let h := √(s.radius ^ 2 / dist p s.center ^ 2 - 1)
      let rot90 : V → V := sorry -- do we have this API?
      let v' := rot90 (p -ᵥ s.center)
      {(h : ℝ) • v' +ᵥ p, (-h : ℝ) • v' +ᵥ p} := sorry
```
where perhaps `rot90` can be obtained from the orientation of the module?

Comment (eric-wieser) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:366]: But indeed, accepting a nonzero vector in the orthRadius seems like an easy way out for now, which also has the bonus that this is exactly what your proof constructs half way through.

I agree we should have the ncard lemma, but I think we should _also_ have the one that explicitly names the points,

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean (hunk 2 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:364]: Added that doc string.

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean (hunk 3 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:366]: Now added with that given nonzero vector (in `(ℝ ∙ (p -ᵥ s.center))ᗮ` as that's the `simp`-normal form, since `direction_orthRadius` is a `simp` lemma).

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean [hunk 4]
```diff
@@ -122,6 +140,105 @@ lemma orthRadius_parallel_orthRadius_iff {s : Sphere P} {p q : P} :
     ← Set.not_nonempty_iff_eq_empty, mk'_nonempty, and_true, ← Units.exists_iff_ne_zero, eq_comm,
     Units.smul_def]
 
+attribute [local instance] FiniteDimensional.of_fact_finrank_eq_two
+
+lemma inter_orthRadius_eq_of_dist_le_radius [hf2 : Fact (Module.finrank ℝ V = 2)]
+    {s : Sphere P} {p : P} (hp : dist p s.center ≤ s.radius) (hpc : p ≠ s.center) {v : V}
+    (hv : v ∈ (ℝ ∙ (p -ᵥ s.center))ᗮ) (hv0 : v ≠ 0) :
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean]: Do you think
```suggestion
    (hv : v ∈ (s.orthRadius p).direction) (hv0 : v ≠ 0) :
```
is better?

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean [hunk 5]
```diff
@@ -122,6 +140,105 @@ lemma orthRadius_parallel_orthRadius_iff {s : Sphere P} {p q : P} :
     ← Set.not_nonempty_iff_eq_empty, mk'_nonempty, and_true, ← Units.exists_iff_ne_zero, eq_comm,
     Units.smul_def]
 
+attribute [local instance] FiniteDimensional.of_fact_finrank_eq_two
+
+lemma inter_orthRadius_eq_of_dist_le_radius [hf2 : Fact (Module.finrank ℝ V = 2)]
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean]:
```suggestion
/-- In 2D, the line defined by `s.orthRadius p` intersects `s` at at most two points so long as `p`
lies within `s` and not at its center.

This version provides expressions for those points in terms of an arbitrary vector in `s.orthRadius p`. -/
lemma inter_orthRadius_eq_of_dist_le_radius [hf2 : Fact (Module.finrank ℝ V = 2)]
```

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean [hunk 6]
```diff
@@ -122,6 +140,105 @@ lemma orthRadius_parallel_orthRadius_iff {s : Sphere P} {p q : P} :
...
+      simp only [SetLike.mem_coe, mem_orthRadius_iff_inner_left, vadd_vsub, v',
+        real_inner_smul_left, inner_neg_left] <;>
+      rw [Submodule.inner_right_of_mem_orthogonal hv (by simp)] <;> simp
+
+
+/-- In 2D, the line defined by `s.orthRadius p` intersects `s` at exactly two points so long as `p`
+lies strictly within `s` and not at its center. -/
+lemma ncard_inter_orthRadius_eq_two_of_dist_lt_radius [hf2 : Fact (Module.finrank ℝ V = 2)]
+    {s : Sphere P} {p : P} (hp : dist p s.center < s.radius) (hpc : p ≠ s.center) :
+    (s ∩ s.orthRadius p : Set P).ncard = 2 := by
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:366]: Could you also add the version that `ncard <= 2` when `dist p s.center <= s.radius`?

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean [hunk 7]
```diff
@@ -122,6 +140,105 @@ lemma orthRadius_parallel_orthRadius_iff {s : Sphere P} {p q : P} :
...
+  set v' : V := (√(s.radius ^ 2 - (dist p s.center) ^ 2) / ‖v‖) • v with hv'e
+  have hvp : 0 < √(s.radius ^ 2 - (dist p s.center) ^ 2) := by
+    rw [Real.sqrt_pos, sub_pos, sq_lt_sq, abs_of_nonneg dist_nonneg]
+    exact lt_abs.2 (.inl hp)
+  refine ⟨v' +ᵥ p, -v' +ᵥ p, ?_, rfl⟩
+  · simp only [ne_eq, vadd_right_cancel_iff, ← add_eq_zero_iff_eq_neg,
+      ← two_smul ℝ, smul_eq_zero, OfNat.ofNat_ne_zero, false_or]
+    rw [← norm_eq_zero, hv'e]
+    intro h
+    simp [hv0, hvp.ne'] at h
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean]: You don't need the full expression here any more:
```suggestion
  have hf := finrank_orthRadius hpc
  simp only [hf2.out, Nat.reduceEqDiff, finrank_eq_one_iff'] at hf
  obtain ⟨v, hv0, hv⟩ := hf
  replace hv0 : (v : V) ≠ 0 := by simpa using hv0
  rw [inter_orthRadius_eq_of_dist_le_radius hp.le hpc (by simpa using v.property) hv0,
    Submodule.norm_coe, neg_smul, Set.ncard_pair]
  rw [ne_eq, vadd_right_cancel_iff, ← add_eq_zero_iff_eq_neg, ← two_smul ℝ,
    smul_eq_zero_iff_right two_ne_zero, smul_eq_zero_iff_left hv0, div_eq_iff, zero_mul]
  have hvp : 0 < √(s.radius ^ 2 - dist p s.center ^ 2) := by
    rw [Real.sqrt_pos, sub_pos, sq_lt_sq, abs_of_nonneg dist_nonneg]
    exact lt_abs.2 (.inl hp)
  exact hvp.ne'
```

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean]: Ah, I guess you mention that in https://github.com/leanprover-community/mathlib4/pull/31891#discussion_r2659901581. I don't mind much either way.

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean]: Indeed, either form would work with a few rewrites, but it seemed logical to use the `simp` normal form.

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean (hunk 6 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:366]: That's true for any `p ≠ s.center`. Added `ncard_inter_orthRadius_le_two` via a few other intermediate lemmas describing the intersections for points or or outside the sphere (and factoring out the common logic `dist_sq_eq_of_mem_orthRadius` and making `self_mem_orthRadius` into a `simp` lemma).

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean [hunk 8]
```diff
@@ -122,6 +140,134 @@ lemma orthRadius_parallel_orthRadius_iff {s : Sphere P} {p q : P} :
...
+    (dist q s.center) ^ 2 = (dist p s.center) ^ 2 + (dist q p) ^ 2 := by
+  simp_rw [dist_eq_norm_vsub, pow_two]
+  rw [← vsub_add_vsub_cancel q p s.center]
+  conv_rhs => rw [add_comm]
+  rwa [norm_add_sq_eq_norm_sq_add_norm_sq_iff_real_inner_eq_zero, ← mem_orthRadius_iff_inner_left]
+
+attribute [local instance] FiniteDimensional.of_fact_finrank_eq_two
+
+lemma inter_orthRadius_eq_singleton_of_dist_eq_radius {s : Sphere P} {p : P}
+    (hp : dist p s.center = s.radius) : (s ∩ s.orthRadius p : Set P) = {p} := by
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:186]: Is this one (and the one below) true as an `iff`? Fine to keep the `of` version as is for convenience, unless it turns out to be easier to prove both at once.

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean [hunk 9]
```diff
@@ -122,6 +140,134 @@ lemma orthRadius_parallel_orthRadius_iff {s : Sphere P} {p q : P} :
...
+  · simpa [hp] using inter_orthRadius_eq_singleton_of_dist_eq_radius hp
+  rw [neg_smul]
+  have hf := finrank_orthRadius hpc
+  rw [direction_orthRadius] at hf
+  simp only [hf2.out, Nat.reduceEqDiff] at hf
+  rw [finrank_eq_one_iff_of_nonzero' ⟨v, hv⟩ (by simpa using hv0)] at hf
+  have hvc : ∀ w ∈ (ℝ ∙ (p -ᵥ s.center))ᗮ, ∃ c : ℝ, c • v = w := by
+    intro w hw
+    simpa using hf ⟨w, hw⟩
+  set v' : V := (√(s.radius ^ 2 - (dist p s.center) ^ 2) / ‖v‖) • v with hv'e
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean]: Does this proof get any shorter if we get
```

  wlog hnv : ‖v‖ = 1 generalizing v
  · have hnv : ‖‖v‖⁻¹ • v‖ = 1 := by
      rw [norm_smul, norm_inv, norm_norm, inv_mul_cancel₀ (norm_ne_zero_iff.2 hv0)]
    rw [this (Submodule.smul_mem _ ‖v‖⁻¹ hv) (smul_ne_zero (by positivity) hv0) hnv,
      smul_smul, ← div_eq_mul_inv, hnv, div_one]
```
out of the way early, and drop all the `‖v‖` terms?

Comment (eric-wieser) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean]: (or maybe more clearly, to provide a separate statement with a `‖v‖ = 1` assumption)

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean]: I've factored out such a separate statement, though it doesn't make things shorter.

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean (hunk 8 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:186]: The `singleton` one ought to be true as an `iff`, though maybe more natural with a singleton `{q}`. I think the `empty` one would also need cases for a 0-dimensional or 1-dimensional space and a point inside the sphere to be true as an `iff`.

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:186]: I found some new lemmas (in particular `mem_inter_orthRadius_iff_radius_nonneg_and_vsub_mem_and_norm_sq` and consequences) that allowed simplifying some proofs, including the long one of `inter_orthRadius_eq_of_dist_le_radius_of_norm_eq_one`, and also helped in the proof of `inter_orthRadius_eq_singleton_iff`, which I've now added in what I think is the appropriate form.

As noted, the `empty` one would be rather uglier (and nastier to prove); something like `(s ∩ s.orthRadius p : Set P) = ∅ ↔ s.radius < dist p s.center ∨ (Module.finrank ℝ V = 1 ∧ dist p s.center < s.radius ∧ p ≠ s.center) ∨ (Subsingleton V ∧ s.radius ≠ 0)`.

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:186]: There may well be scope to further shorten the proof of `inter_orthRadius_eq_of_dist_le_radius_of_norm_eq_one` now.

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean [hunk 10]
```diff
@@ -122,6 +140,170 @@ lemma orthRadius_parallel_orthRadius_iff {s : Sphere P} {p q : P} :
...
+  simp_rw [dist_eq_norm_vsub, pow_two]
+  rw [← vsub_add_vsub_cancel q p s.center]
+  nth_rw 3 [add_comm]
+  rw [norm_add_sq_eq_norm_sq_add_norm_sq_iff_real_inner_eq_zero, ← mem_orthRadius_iff_inner_left]
+
+alias ⟨_, dist_sq_eq_of_mem_orthRadius⟩ := dist_sq_eq_iff_mem_orthRadius
+
+lemma mem_inter_orthRadius_iff_radius_nonneg_and_vsub_mem_and_norm_sq {s : Sphere P} {p q : P} :
+    q ∈ (s ∩ s.orthRadius p : Set P) ↔ 0 ≤ s.radius ∧
+      q -ᵥ p ∈ (ℝ ∙ (p -ᵥ s.center))ᗮ ∧ ‖q -ᵥ p‖ ^ 2 = s.radius ^ 2 - (dist p s.center) ^ 2 := by
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:156]: Better or worse?
```suggestion
      q -ᵥ p ∈ (ℝ ∙ (p -ᵥ s.center))ᗮ ∧ dist p q ^ 2 = s.radius ^ 2 - (dist p s.center) ^ 2 := by
```
(or `dist q p`)

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:156]: I chose this form to use the vector `q -ᵥ p` in both places, rather than the vector in one place and distance in another.

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean (hunk 8 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:186]: I've added `inter_orthRadius_eq_empty_iff` as well for completeness.

**Review by Parcly-Taxel — APPROVED** [review]
